US04144320
A mixture of 24 g of di-n-octylamine, 10 g of 3-chloro-1-propanol and 11 g of triethylamine in 200 ml of toluene was refluxed for 24 hours. The toluene solution was washed twice with water to remove the triethylamine hydrochloride formed and then evaporated. The residue was distilled and gave 19.9 g of N,N-di-n-octyl-3-amino-1-propanol, b.p. 125°-130° C./0.01 mm Hg, nD22 = 1.4613.

reactant | di-n-octylamine | 24 g | C(CCCCCCC)NCCCCCCCC | C16H35N
reactant | 3-chloro-1-propanol | 10 g | ClCCCO | C3H7ClO
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-di-n-octyl-3-amino-1-propanol | 19.9 g | C(CCCCCCC)N(CCCO)CCCCCCCC | C19H41NO
